### PR TITLE
[Merged by Bors] - feat(GroupTheory/SpecificGroups/Alternating/Simple): simplicity of the alternating groups

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This is the conclusion of the story of the proof of simplicity of the alternating group using the
Iwasawa criterion.

* `Equiv.Perm.iwasawaStructure_two`:
  the natural `IwasawaStructure` of `Equiv.Perm α` acting on `Nat.Combination α 2`
  Its commutative subgroups consist of the permutations with support
  in a given element of `Nat.Combination α 2`.
  They are cyclic of order 2.

* `alternatingGroup_of_le_of_normal`:
  If `α` has at least 5 elements, then a nontrivial normal subgroup
  of `Equiv.Perm α` contains the alternating group.

* `alternatingGroup.iwasawaStructure_three`:
  the natural `IwasawaStructure` of `alternatingGroup α` acting on `Nat.Combination α 3`

  Its commutative subgroups consist of the permutations with support
  in a given element of `Nat.Combination α 2`.
  They are cyclic of order 3.

* `alternatingGroup.iwasawaStructure_three`:
  the natural `IwasawaStructure` of `alternatingGroup α` acting on `Nat.Combination α 4`

  Its commutative subgroups consist of the permutations of
  cycleType (2, 2) with support in a given element of `Nat.Combination α 2`.
  They have order 4 and exponent 2 (`IsKleinFour`).

* `alternatingGroup.normal_subgroup_eq_bot_or_eq_top`:
  If `α` has at least 5 elements, then a nontrivial normal subgroup of `alternatingGroup` is `⊤`.

* `alternatingGroup.isSimpleGroup`:
  If `α` has at least 5 elements, then `alternatingGroup α`
  is a simple group.

---

- [x] depends on: #33082
- [x] depends on: #36983
- [x] depends on: #37026

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 1]
```diff
@@ -0,0 +1,302 @@
...
+    apply isCyclic_of_prime_card (p := 2)
+    rw [Nat.card_perm, Nat.card_eq_finsetCard, s.prop, Nat.factorial_two]
+  is_conj g s := by
+    convert (conj_smul_range_ofSubtype g s).symm
+  is_generator := by
+    rw [eq_top_iff, ← Equiv.Perm.closure_isSwap, Subgroup.closure_le]
+    intro g hg
+    obtain ⟨a, b, hab, rfl⟩ := hg
+    let s : Set.powersetCard α 2 := ⟨{a, b}, Finset.card_pair hab⟩
+    apply Subgroup.mem_iSup_of_mem s
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
    rintro g ⟨a, b, hab, rfl⟩
    apply Subgroup.mem_iSup_of_mem ⟨{a, b}, Finset.card_pair hab⟩
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 2]
```diff
@@ -0,0 +1,302 @@
...
+
+/-- If `α` has at least 5 elements, then the only nontrivial
+normal subgroup of `Equiv.Perm α` is `alternatingGroup α`. -/
+theorem alternatingGroup_of_le_of_normal
+    {α : Type*} [DecidableEq α] [Fintype α] (hα : 5 ≤ Nat.card α)
+    {N : Subgroup (Perm α)} (hnN : N.Normal) (ntN : Nontrivial N) :
+    alternatingGroup α ≤ N := by
+  rw [Nat.card_eq_fintype_card] at hα
+  rw [← alternatingGroup.commutator_perm_eq hα]
+  rw [← Nat.card_eq_fintype_card] at hα
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Can you refactor `commutator_perm_eq` to take `Nat.card`?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 3]
```diff
@@ -0,0 +1,302 @@
...
+    ext1 s
+    exact hg_ne s
+  convert hg_ne
+  symm
+  apply Set.powersetCard.mulAction_faithful
+  · norm_num
+  · have : CharZero ℕ∞ := instCharZeroENat
+    rw [ENat.card_eq_coe_fintype_card, Nat.cast_ofNat,
+          Nat.ofNat_lt_cast, ← Nat.card_eq_fintype_card]
+    exact le_trans (by norm_num) hα
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
  exact fixedPoints_ne_univ_of_isPreprimitive 2 (by norm_num) (by grind)
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 4]
```diff
@@ -0,0 +1,302 @@
...
+    exact hg_ne s
+  convert hg_ne
+  rw [← Subtype.coe_inj]
+  symm
+  apply Set.powersetCard.mulAction_faithful
+  · norm_num
+  · have : CharZero ℕ∞ := instCharZeroENat
+    rw [ENat.card_eq_coe_fintype_card, Nat.cast_ofNat,
+          Nat.ofNat_lt_cast]
+    simpa using hα
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
  rw [← ne_eq, ← Subgroup.nontrivial_iff_ne_bot] at hN
  exact fixedPoints_ne_univ_of_isPreprimitive 4 (by norm_num) (by grind)
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 5]
```diff
@@ -0,0 +1,302 @@
...
+    ext1 s
+    exact hg_ne s
+  convert hg_ne
+  symm
+  apply Set.powersetCard.mulAction_faithful
+  · norm_num
+  · have : CharZero ℕ∞ := instCharZeroENat
+    rw [ENat.card_eq_coe_fintype_card, Nat.cast_ofNat,
+          Nat.ofNat_lt_cast, ← Nat.card_eq_fintype_card]
+    apply le_trans (by norm_num) hα
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
  rw [← ne_eq, ← Subgroup.nontrivial_iff_ne_bot] at hN
  exact fixedPoints_ne_univ_of_isPreprimitive 3 (by norm_num) (by grind)
```

**Review by tb65536 — COMMENTED** [review]
You seem to be repeating the same argument a number of times. What if you add
```
set_option backward.isDefEq.respectTransparency false in
theorem fixedPoints_ne_univ_of_isPreprimitive {α G : Type*} [DecidableEq α] [Finite α]
    [Group G] [MulAction G α] {N : Subgroup G} [Nontrivial N] [FaithfulSMul N α]
    (n : ℕ) (hn : 0 < n) (hn' : n < Nat.card α) [IsPreprimitive G (Set.powersetCard α n)] :
    fixedPoints N (Set.powersetCard α n) ≠ _root_.Set.univ := by
  obtain ⟨g, h⟩ := exists_ne (1 : N)
  contrapose! h
  replace h : (toPerm g : Perm (Set.powersetCard α n)) = 1 := by
    ext1 s
    exact Set.eq_univ_iff_forall.mp h s g
  rwa [← toPermHom_apply, map_eq_one_iff] at h
  have := Set.powersetCard.faithfulSMul (G := N) (α := α) (n := n) ?_ ?_
  · exact MulAction.toPerm_injective
  · exact hn
  · rwa [ENat.card_eq_coe_natCard, Nat.cast_lt]
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: In that PR? in preceding one?

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: In this PR?

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Done. To be consistent, I also refactored the handful of lemmas on which it depends.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 6]
```diff
@@ -0,0 +1,240 @@
...
+/-- The Iwasawa structure of `Perm α` acting on `Set.powersetCard α 2`. -/
+def iwasawaStructure_two [∀ s : Set α, DecidablePred fun x ↦ x ∈ s] :
+    IwasawaStructure (Perm α) (Set.powersetCard α 2) where
+  T s := (ofSubtype : Perm (s : Set α) →* Perm α).range
+  is_comm s := by
+    suffices IsCyclic (Perm s) by
+      let _ : CommGroup (Perm s) := IsCyclic.commGroup
+      apply MonoidHom.range_isMulCommutative
+    apply isCyclic_of_prime_card (p := 2)
+    rw [Nat.card_perm, Nat.card_eq_finsetCard, s.prop, Nat.factorial_two]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: If you add
```
instance IsCyclic.isMulCommutative {α : Type*} [Group α] [IsCyclic α] : IsMulCommutative α :=
  ⟨⟨IsCyclic.commutative.comm⟩⟩

theorem Equiv.Perm.isCyclic_of_card_le_two {α : Type*} [Finite α] (hα : Nat.card α ≤ 2) :
    IsCyclic (Perm α) := by
  apply isCyclic_of_card_dvd_prime (p := 2)
  rw [Nat.card_perm]
  interval_cases (Nat.card α) <;> simp

theorem alternatingGroup.isCyclic_of_card_le_three {α : Type*} [Fintype α] [DecidableEq α]
    (hα : Nat.card α ≤ 3) : IsCyclic (alternatingGroup α) := by
  cases subsingleton_or_nontrivial α
  · infer_instance
  have : 1 < Nat.card α := Finite.one_lt_card
  apply isCyclic_of_card_dvd_prime (p := 3)
  rw [nat_card_alternatingGroup]
  interval_cases (Nat.card α) <;> simp [Nat.factorial_succ]

theorem Equiv.Perm.isMulCommutative_of_card_le_two {α : Type*} [Finite α] (hα : Nat.card α ≤ 2) :
    IsMulCommutative (Perm α) :=
  (isCyclic_of_card_le_two hα).isMulCommutative

theorem alternatingGroup.isMulCommutative_of_card_le_three {α : Type*} [Fintype α] [DecidableEq α]
    (hα : Nat.card α ≤ 3) : IsMulCommutative (alternatingGroup α) :=
  (isCyclic_of_card_le_three hα).isMulCommutative
```
then this becomes
```suggestion
    have : IsMulCommutative (Perm s) := isMulCommutative_of_card_le_two (by simp)
    apply MonoidHom.range_isMulCommutative
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 7]
```diff
@@ -0,0 +1,240 @@
...
+  is_comm s := by
+    suffices IsCyclic (alternatingGroup s) by
+      let _ : CommGroup (alternatingGroup s) := IsCyclic.commGroup
+      exact MonoidHom.range_isMulCommutative (ofSubtype (s : Finset α))
+    apply isCyclic_of_prime_card (p := 3)
+    have : Nontrivial s := by
+      rw [← Fintype.one_lt_card_iff_nontrivial, Fintype.card_coe, s.prop]
+      norm_num
+    rw [nat_card_alternatingGroup, Nat.card_eq_finsetCard, s.prop]
+    norm_num [Nat.factorial]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
    have : IsMulCommutative (alternatingGroup s) := isMulCommutative_of_card_le_three (by simp)
    apply MonoidHom.range_isMulCommutative
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean [hunk 8]
```diff
@@ -0,0 +1,52 @@
...
+
+theorem Equiv.Perm.isCyclic_of_card_le_two (hα : Nat.card α ≤ 2) :
+    IsCyclic (Perm α) := by
+  apply isCyclic_of_card_dvd_prime (p := 2)
+  rw [Nat.card_perm]
+  interval_cases (Nat.card α) <;> simp
+
+theorem Equiv.Perm.isMulCommutative_of_card_le_two (hα : Nat.card α ≤ 2) :
+    IsMulCommutative (Perm α) :=
+  (isCyclic_of_card_le_two hα).isMulCommutative
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean]: These should be in an earlier file (they don't depend on alternating).

File: Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean [hunk 9]
```diff
@@ -0,0 +1,52 @@
...
+  cases subsingleton_or_nontrivial α
+  · infer_instance
+  have : 1 < Nat.card α := Finite.one_lt_card
+  apply isCyclic_of_card_dvd_prime (p := 3)
+  rw [nat_card_alternatingGroup]
+  interval_cases (Nat.card α) <;> simp [Nat.factorial_succ]
+
+theorem alternatingGroup.isMulCommutative_of_card_le_three (hα : Nat.card α ≤ 3) :
+    IsMulCommutative (alternatingGroup α) :=
+  (isCyclic_of_card_le_three hα).isMulCommutative
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean]: How bad would it be to import cyclic into alternating?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 10]
```diff
@@ -0,0 +1,231 @@
...
+/-- If `α` has at least 5 elements, then the only nontrivial
+normal subgroup of `Equiv.Perm α` is `alternatingGroup α`. -/
+theorem alternatingGroup_of_le_of_normal
+    {α : Type*} [DecidableEq α] [Fintype α] (hα : 5 ≤ Nat.card α)
+    {N : Subgroup (Perm α)} (hnN : N.Normal) (ntN : Nontrivial N) :
+    alternatingGroup α ≤ N := by
+  rw [← alternatingGroup.commutator_perm_eq hα]
+  have : IsPreprimitive (Perm α) (Set.powersetCard α 2) := by
+    apply Set.powersetCard.isPreprimitive_perm (by norm_num) (lt_of_lt_of_le (by norm_num) hα)
+    aesop
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
    apply Set.powersetCard.isPreprimitive_perm  <;> grind
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 11]
```diff
@@ -0,0 +1,231 @@
...
+    (hα : 5 ≤ Nat.card α) (hα' : Nat.card α ≠ 6)
+    {N : Subgroup (alternatingGroup α)} (hnN : N.Normal) :
+    N = ⊥ ∨ N = ⊤ := by
+  classical
+  rw [or_iff_not_imp_left]
+  intro hN
+  have : IsPreprimitive (alternatingGroup α) (Set.powersetCard α 3) := by
+    refine Set.powersetCard.isPreprimitive_alternatingGroup (by norm_num) ?_ ?_
+    · exact lt_of_lt_of_le (by norm_num) hα
+    · simpa using hα'
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:132]:
```suggestion
    apply Set.powersetCard.isPreprimitive_alternatingGroup <;> grind
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 12]
```diff
@@ -0,0 +1,231 @@
...
+  rw [eq_top_iff, ← commutator_alternatingGroup_eq_top (by simpa using hα)]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:133]:
```suggestion
  rw [eq_top_iff, ← commutator_alternatingGroup_eq_top hα]
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 13]
```diff
@@ -0,0 +1,231 @@
...
+    exact Exists.choose
+  · rintro ⟨hk, hk'⟩
+    rw [← mem_range_ofSubtype_iff] at hk
+    obtain ⟨k, rfl⟩ := hk
+    apply Subgroup.mem_map_of_mem
+    rw [← SetLike.mem_coe, coe_kleinFour_of_card_eq_four hs,
+      Set.mem_union, Set.mem_singleton_iff, Set.mem_setOf_eq]
+    simp only [ofSubtype, MonoidHom.coe_mk, OneHom.coe_mk, cycleType_ofSubtype,
+      map_eq_one_iff _ ofSubtype_injective, OneMemClass.coe_eq_one] at hk'
+    convert hk'
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: With a bit more API, you can golf as follows:
```
theorem ofSubtype_injective {s : Finset α} : Function.Injective (ofSubtype s) := by
  rw [← Function.Injective.of_comp_iff (alternatingGroup α).subtype_injective]
  exact Perm.ofSubtype_injective.comp (alternatingGroup s).subtype_injective

theorem ofSubtype_inj {s : Finset α} {g h : alternatingGroup s} :
    ofSubtype s g = ofSubtype s h ↔ g = h :=
  ofSubtype_injective.eq_iff

theorem coe_ofSubtype (s : Finset α) (k : alternatingGroup s) :
    (ofSubtype s k : Equiv.Perm α) = Equiv.Perm.ofSubtype k.1 := by
  rfl
```
```suggestion
  by_cases hk : (k : Perm α).support ⊆ s
  · obtain ⟨σ, rfl⟩ := (mem_range_ofSubtype_iff s k).mpr hk
    simp_rw [and_iff_right hk, Subgroup.mem_map, ofSubtype_inj, existsAndEq, and_true,
      ← SetLike.mem_coe, coe_kleinFour_of_card_eq_four hs]
    simp only [Set.singleton_union, Set.mem_insert_iff, Set.mem_setOf_eq, OneMemClass.coe_eq_one,
      cycleType_ofSubtype, coe_ofSubtype, map_eq_one_iff _ Perm.ofSubtype_injective]
    convert Iff.rfl
  · simp_rw [hk, false_and, iff_false]
    contrapose! hk
    exact (mem_range_ofSubtype_iff s k).mp (Subgroup.map_le_range _ _ hk)
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean]: I agree, but there is apparently no good place. I'm reluctant of adding Equiv.Perm.SmallCard, and doesn't know whether it's a good idea or not to import Cyclic.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean]: I'll try.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: I did that. As you will see in the commits, this broke a much later file, where a proof ending by `simpa using <some function> _ _` made Lean go over the number of authorized heartbeats. The modification was to give the explicit arguments `_` and `_` (two variables of the context). It suggests that terminating a proof like this is not a safe way for mathlib (because filling the blanks becomes more complex if more instances appear) and a linter should probably prevent that.

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Wait, you're saying that modifying a proof (not a definition) in this way breaks a later file?

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Sorry I misunderstood, yeah seems like those blanks were a problem waiting to happen.

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Thanks for fixing!

File: Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/SmallCard.lean]: This part for alternating is OK. But I can't find a good place for Perm of card <= 2.
The problem is that docs#Nat.card_perm is in a file that requires that `Field` doesn't exist, while `IsCyclic` use it ultimately.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 14]
```diff
@@ -535,60 +535,60 @@ theorem isMultiplyPretransitive (n : ℕ) :
...
     simp only [add_comm, Cardinal.mk_sum_compl]
   rw [Cardinal.eq] at hxy
-  obtain ⟨φ⟩ := hxy
-  let φ' : α → α := Function.extend Subtype.val (fun a ↦ ↑(φ a)) id
-  set ψ : α → α := Function.extend x y φ'
-  have : Function.Bijective ψ := by
+  obtain ⟨e⟩ := hxy
+  let e' : α → α := Function.extend Subtype.val (fun a ↦ ↑(e a)) id
+  set f : α → α := Function.extend x y e'
+  have : Function.Bijective f := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Do you need to be changes these variables?

**Comment by AntoineChambert-Loir** [comment]
See #36983 for an attempt to split `Mathlib.GroupTheory.SpecificGroups.Cyclic` into one part that  imports less files (`Mathlib.GroupTheory.SpecificGroups.Cyclic.Basic`) and the rest (kept in `Mathlib.GroupTheory.SpecificGroups.Cyclic`, which allows to modify no `import` in the rest of Mathlib)

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: This is probably a consequence of missed merges.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Actually, you know what? — `obtain ⟨φ⟩ := hxy` doesn't work anymore (`unexpected token` error), while `obtain ⟨φ⟩ := hxy` does.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: At this point, some stuff is opened and `φ` represents Euler's totient function.

Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: I'm still a bit confused as to how the file can break here given that nothing above changed?

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 15]
```diff
@@ -208,6 +208,24 @@ theorem mulActionHom_compl_bijective :
 
 end compl
 
+variable {G} in
+set_option backward.isDefEq.respectTransparency false in
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean]: Is this still necessary?

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 16]
```diff
@@ -208,6 +208,24 @@ theorem mulActionHom_compl_bijective :
...
+theorem fixedPoints_ne_univ_of_faithfulSMul
+    [Nontrivial G] [FaithfulSMul G α]
+    (n : ℕ) (hn : 0 < n) (hn' : n < Nat.card α) :
+    fixedPoints G (Set.powersetCard α n) ≠ _root_.Set.univ := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean]: I don't think you need `_root_` here.

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 17]
```diff
@@ -208,6 +208,24 @@ theorem mulActionHom_compl_bijective :
...
+  have : Finite α := Nat.finite_of_card_ne_zero (Nat.ne_zero_of_lt hn')
+  obtain ⟨g, h⟩ := exists_ne (1 : G)
+  contrapose! h
+  replace h : (toPerm g : Perm (Set.powersetCard α n)) = 1 := by
+    ext1 s
+    exact Set.eq_univ_iff_forall.mp h s g
+  rwa [← toPermHom_apply, map_eq_one_iff] at h
+  have := Set.powersetCard.faithfulSMul (G := G) (α := α) (n := n) ?_ ?_
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean]:
```suggestion
  have := Set.powersetCard.faithfulSMul (G := G) (α := α) (n := n) hn ?_
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean [hunk 18]
```diff
@@ -143,6 +144,47 @@ theorem nat_card_alternatingGroup [Nontrivial α] :
...
+    rw [mem_alternatingGroup]
+    exact (isThreeCycle_swap_mul_swap_same hab had hbd).sign⟩
+  specialize H g h
+  simp only [MulMemClass.mk_mul_mk, Subtype.mk.injEq, Perm.ext_iff, Perm.coe_mul,
+    Function.comp_apply, EmbeddingLike.apply_eq_iff_eq, g, h] at H
+  simpa only [swap_apply_left,
+    swap_apply_of_ne_of_ne (Ne.symm had) (Ne.symm hbd),
+    swap_apply_of_ne_of_ne (Ne.symm hac) (Ne.symm hbc),
+    swap_apply_of_ne_of_ne (Ne.symm hac) hcd,
+    swap_apply_of_ne_of_ne (Ne.symm had) (Ne.symm hcd)] using H a
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating.lean]: If you move this later, then `center_eq_bot` gives an easier proof.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 19]
```diff
@@ -0,0 +1,220 @@
...
+  of `Equiv.Perm α` contains the alternating group.
+
+* `alternatingGroup.iwasawaStructure_three`:
+  the natural `IwasawaStructure` of `alternatingGroup α` acting on `Set.powersetCard α 3`
+
+  Its commutative subgroups consist of the permutations with support
+  in a given element of `Set.powersetCard α 2`.
+  They are cyclic of order 3.
+
+* `alternatingGroup.iwasawaStructure_three`:
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Should this say `four`?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 20]
```diff
@@ -0,0 +1,220 @@
...
+public import Mathlib.GroupTheory.GroupAction.SubMulAction.Combination
+public import Mathlib.GroupTheory.SpecificGroups.Alternating.KleinFour
+
+/-! # The alternating group is simple
+
+* `Equiv.Perm.iwasawaStructure_two`:
+  the natural `IwasawaStructure` of `Equiv.Perm α` acting on `Set.powersetCard α 2`
+  Its commutative subgroups consist of the permutations with support
+  in a given element of `Set.powersetCard α 2`.
+  They are cyclic of order 2.
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Typically I think we would just avoid the extra newlines (here and below).
```suggestion
* `Equiv.Perm.iwasawaStructure_two`: the natural `IwasawaStructure` of `Equiv.Perm α` acting on
  `Set.powersetCard α 2` Its commutative subgroups consist of the permutations with support
  in a given element of `Set.powersetCard α 2`. They are cyclic of order 2.
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 21]
```diff
@@ -0,0 +1,220 @@
...
+
+/-- The Iwasawa structure of `Perm α` acting on `Set.powersetCard α 2`. -/
+def iwasawaStructure_two [∀ s : Set α, DecidablePred fun x ↦ x ∈ s] :
+    IwasawaStructure (Perm α) (Set.powersetCard α 2) where
+  T s := (ofSubtype : Perm (s : Set α) →* Perm α).range
+  is_comm s := by
+    have : IsMulCommutative (Perm s) :=
+      isMulCommutative_iff_card_le_two.mpr (by simp)
+    rw [MonoidHom.range_eq_map]
+    apply Subgroup.map_isMulCommutative
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Are we missing a `Subgroup.range_isMulCommutative`?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 22]
```diff
@@ -0,0 +1,220 @@
...
+    rw [hα']
+    simp
+  · apply normal_subgroup_eq_bot_or_eq_top_of_card_ne_six hα hα' hnN
+
+/-- When `α` has at least 5 elements, then `alternatingGroup α` is a simple group. -/
+public theorem isSimpleGroup (hα : 5 ≤ Nat.card α) :
+    IsSimpleGroup (alternatingGroup α) where
+  exists_pair_ne := by
+    rw [← nontrivial_iff]
+    refine nontrivial_of_three_le_card ?_
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:211]: Can you switch this lemma to `Nat.card`?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 23]
```diff
@@ -0,0 +1,220 @@
...
+is `⊤`. -/
+theorem normal_subgroup_eq_bot_or_eq_top
+    (hα : 5 ≤ Nat.card α)
+    {N : Subgroup (alternatingGroup α)} (hnN : N.Normal) :
+    N = ⊥ ∨ N = ⊤ := by
+  by_cases hα' : Nat.card α = 6
+  · apply normal_subgroup_eq_bot_or_eq_top_of_card_ne_eight hα _ hnN
+    rw [hα']
+    simp
+  · apply normal_subgroup_eq_bot_or_eq_top_of_card_ne_six hα hα' hnN
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
  · exact normal_subgroup_eq_bot_or_eq_top_of_card_ne_eight hα (by grind) hnN
  · exact normal_subgroup_eq_bot_or_eq_top_of_card_ne_six hα hα' hnN
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 24]
```diff
@@ -0,0 +1,220 @@
...
+
+/-- If `α` has at least 5 elements, but not 8,
+then the only nontrivial normal subgroup of `alternatingGroup α`
+is `⊤`. -/
+theorem normal_subgroup_eq_bot_or_eq_top_of_card_ne_eight
+    (hα : 5 ≤ Nat.card α) (hα' : Nat.card α ≠ 8)
+    {N : Subgroup (alternatingGroup α)} (hnN : N.Normal) :
+    N = ⊥ ∨ N = ⊤ := by
+  classical
+  rw [or_iff_not_imp_left]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Might as well do all the rewrites at once:
```suggestion
  rw [or_iff_not_imp_left, ← ne_eq, ← Subgroup.nontrivial_iff_ne_bot]
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 25]
```diff
@@ -0,0 +1,220 @@
...
+    · simp [← sum_cycleType, hg]
+
+/-- If `α` has at least 5 elements, but not 8,
+then the only nontrivial normal subgroup of `alternatingGroup α`
+is `⊤`. -/
+theorem normal_subgroup_eq_bot_or_eq_top_of_card_ne_eight
+    (hα : 5 ≤ Nat.card α) (hα' : Nat.card α ≠ 8)
+    {N : Subgroup (alternatingGroup α)} (hnN : N.Normal) :
+    N = ⊥ ∨ N = ⊤ := by
+  classical
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Is this needed?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 26]
```diff
@@ -0,0 +1,220 @@
...
+    rw [mem_range_ofSubtype_iff]
+
+/-- If `α` has at least 5 elements, but not 6,
+then the only nontrivial normal subgroup of `alternatingGroup α`
+is `⊤`. -/
+theorem normal_subgroup_eq_bot_or_eq_top_of_card_ne_six
+    (hα : 5 ≤ Nat.card α) (hα' : Nat.card α ≠ 6)
+    {N : Subgroup (alternatingGroup α)} (hnN : N.Normal) :
+    N = ⊥ ∨ N = ⊤ := by
+  classical
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Is this needed?

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean (hunk 16 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean]: non, and even `Set.` is unnecessary.

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean (hunk 18 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating.lean]: indeed.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 20 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: I understand that people wish to fill the lines, but I prefer to have semantic line breaks.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 22 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:211]: I don't understand.

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:211]: Sorry, I meant modifying `alternatingGroup.nontrivial_of_three_le_card` to use `Nat.card`.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:211]: Sure!
But in view of `Nat.card_eq_fintype_card` which has a `simp` tag, shouldn't we do otherwise?

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:211]: Really I think that `simp` tag is historical and should be removed eventually.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 21 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: yes, we did.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: ...

File: Mathlib/Algebra/Group/Subgroup/Ker.lean [hunk 27]
```diff
@@ -83,6 +83,12 @@ instance range_isMulCommutative {G : Type*} [CommGroup G] {N : Type*} [Group N]
     IsMulCommutative f.range :=
   range_eq_map f ▸ Subgroup.map_isMulCommutative ⊤ f
 
+@[to_additive]
+instance _root_.Subgroup.range_isMulCommutative {G : Type*} [Group G] [IsMulCommutative G]
+    {N : Type*} [Group N] (f : G →* N) :
+    IsMulCommutative f.range :=
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Ker.lean:84]: Can this instead replace the instance above?

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Subgroup/Ker.lean:84]: It seems so.

Comment (tb65536) [reply Mathlib/Algebra/Group/Subgroup/Ker.lean:84]: Can you replace it entirely then?

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean [hunk 28]
```diff
@@ -319,7 +339,7 @@ theorem normalClosure_finRotate_five : normalClosure ({⟨finRotate 5,
       have h3 :
         IsThreeCycle (Fin.cycleRange 2 * finRotate 5 * (Fin.cycleRange 2)⁻¹ * (finRotate 5)⁻¹) :=
         card_support_eq_three_iff.1 (by decide)
-      rw [← h3.alternating_normalClosure (by rw [card_fin])]
+      rw [← h3.alternating_normalClosure (by rw [Nat.card_eq_fintype_card, card_fin])]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating.lean]: Does `Nat.card_fin` work here?

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean [hunk 29]
```diff
@@ -416,7 +436,7 @@ instance isSimpleGroup_five : IsSimpleGroup (alternatingGroup (Fin 5)) :=
     -- If `n = 3`, then `g` has a 3-cycle in its decomposition, so `g^2` is a 3-cycle.
     -- `g^2` is in the normal closure of `g`, so that normal closure must be $A_5$.
     · rw [eq_top_iff, ← (isThreeCycle_sq_of_three_mem_cycleType_five ng).alternating_normalClosure
-        (by rw [card_fin])]
+        (by rw [Nat.card_eq_fintype_card, card_fin])]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating.lean]: Does `Nat.card_fin` work here?

File: Mathlib/Algebra/Group/Subgroup/Ker.lean (hunk 27 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Subgroup/Ker.lean:84]: Yes! I just wanted to be sure that the whole mathlib compiled without problem.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 30]
```diff
@@ -0,0 +1,209 @@
...
+variable {α : Type*} [Finite α] [DecidableEq α]
+
+/-- The Iwasawa structure of `Perm α` acting on `Set.powersetCard α 2`. -/
+def iwasawaStructure_two [∀ s : Set α, DecidablePred fun x ↦ x ∈ s] :
+    IwasawaStructure (Perm α) (Set.powersetCard α 2) where
+  T s := (ofSubtype : Perm (s : Set α) →* Perm α).range
+  is_comm s := by
+    have : IsMulCommutative (Perm s) :=
+      isMulCommutative_iff_card_le_two.mpr (by simp)
+--    exact Subgroup.range_isMulCommutative ofSubtype
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
    have : IsMulCommutative (Perm s) := isMulCommutative_iff_card_le_two.mpr (by simp)
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 31]
```diff
@@ -0,0 +1,209 @@
...
+
+/-- The Iwasawa structure of `alternatingGroup α` acting on `Set.powersetCard α 4`,
+provided `α` has at least 5 elements. -/
+def iwasawaStructure_four (h5 : 5 ≤ Nat.card α) :
+    IwasawaStructure (alternatingGroup α) (Set.powersetCard α 4) where
+  T s := (kleinFour s).map (ofSubtype s)
+  is_comm s := by
+    have : IsMulCommutative (kleinFour s) :=
+      (kleinFour_isKleinFour (by aesop)).isMulCommutative
+    apply Subgroup.map_isMulCommutative
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: (just to match the others)
```suggestion
    have : IsMulCommutative (kleinFour s) := (kleinFour_isKleinFour (by simp)).isMulCommutative
    infer_instance
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 32]
```diff
@@ -0,0 +1,209 @@
...
+    · exact lt_of_lt_of_le (by norm_num) hα
+    · simpa using hα'
+  rw [eq_top_iff, ← commutator_alternatingGroup_eq_top (by simpa using hα)]
+  apply iwasawaStructure_three.commutator_le
+  exact fixedPoints_ne_univ_of_faithfulSMul 3 (by norm_num) (by grind)
+
+theorem mem_map_kleinFour_ofSubtype (s : Finset α) (hs : s.card = 4) (k : alternatingGroup α) :
+    k ∈ (kleinFour s).map (ofSubtype s) ↔
+      (k : Perm α).support ⊆ s ∧ ((k : Perm α) = 1 ∨ (k : Perm α).cycleType = {2, 2}) := by
+  have hs : Nat.card s = 4 := by aesop
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Personally, I would use `simpa` since it makes it a bit clearer what's going on.
```suggestion
  have hs : Nat.card s = 4 := by simpa
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 33]
```diff
@@ -0,0 +1,209 @@
...
+      isMulCommutative_iff_card_le_two.mpr (by simp)
+--    exact Subgroup.range_isMulCommutative ofSubtype
+    infer_instance
+  is_conj g s := by
+    convert (conj_smul_range_ofSubtype g s).symm
+  is_generator := by
+    rw [eq_top_iff, ← Equiv.Perm.closure_isSwap, Subgroup.closure_le]
+    rintro g ⟨a, b, hab, rfl⟩
+    apply Subgroup.mem_iSup_of_mem ⟨{a, b}, Finset.card_pair hab⟩
+    exact ⟨swap ⟨a, by aesop⟩ ⟨b, by aesop⟩, Equiv.Perm.ofSubtype_swap_eq _ _⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Also here:
```suggestion
    exact ⟨swap ⟨a, by simp⟩ ⟨b, by simp⟩, Equiv.Perm.ofSubtype_swap_eq _ _⟩
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 34]
```diff
@@ -0,0 +1,209 @@
...
+    MulAut.smul_def, MulAut.inv_apply,
+    MulAut.conj_symm_apply, Subgroup.coe_mul, InvMemClass.coe_inv]
+  rw [← ConjAct.toConjAct_inv_smul]
+  rw [Equiv.Perm.support_conj_eq_smul_support,
+    mem_map_kleinFour_ofSubtype (g • s) (by rw [Finset.card_smul_finset, hs])]
+  rw [Finset.subset_smul_finset_iff]
+  simp only [ConjAct.toConjAct_smul]
+  apply and_congr Iff.rfl (or_congr ?_ ?_)
+  · simp [mul_eq_one_iff_inv_eq']
+  · simp only [cycleType_conj]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: If you add
```
theorem Equiv.Perm.support_toConjAct_eq_smul_support {α : Type*} [DecidableEq α] [Fintype α]
    (k : Perm α) (g : Perm α) : (ConjAct.toConjAct k • g).support = k • g.support := by
  rw [Equiv.Perm.support_conj_eq_smul_support, ConjAct.ofConjAct_toConjAct]
```
then this can become
```suggestion
theorem map_kleinFour_conj (s : Finset α) (hs : s.card = 4) (g : alternatingGroup α) :
    (kleinFour _).map (ofSubtype (g • s)) = MulAut.conj g • ((kleinFour s).map (ofSubtype s)) := by
  rcases g with ⟨g, hg⟩
  ext ⟨k, hk⟩
  simp_rw [Subgroup.mem_pointwise_smul_iff_inv_smul_mem, mem_map_kleinFour_ofSubtype s hs,
    Subgroup.mk_smul, MulAut.smul_def, MulAut.inv_apply, MulAut.conj_symm_apply, Subgroup.coe_mul,
    Subgroup.coe_inv, ← ConjAct.toConjAct_inv_smul, Equiv.Perm.support_toConjAct_eq_smul_support,
    mem_map_kleinFour_ofSubtype (g • s) (by simpa), Finset.subset_smul_finset_iff,
    ConjAct.toConjAct_smul, cycleType_conj, mul_inv_eq_one, mul_eq_left]
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 35]
```diff
@@ -0,0 +1,209 @@
...
+      (kleinFour_isKleinFour (by aesop)).isMulCommutative
+    apply Subgroup.map_isMulCommutative
+  is_conj g s := map_kleinFour_conj s.val s.prop g
+  is_generator := by
+    rw [eq_top_iff, ← closure_cycleType_eq_two_two_eq_top h5, Subgroup.closure_le]
+    intro g hg
+    simp only [Set.mem_setOf_eq] at hg
+    simp only [SetLike.mem_coe]
+    apply Subgroup.mem_iSup_of_mem ⟨(g : Perm α).support, by
+      simp [← sum_cycleType, hg]⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: If you wish:
```suggestion
    apply Subgroup.mem_iSup_of_mem ⟨(g : Perm α).support, by simp [← sum_cycleType, hg]⟩
```

**Review by tb65536 — APPROVED** [review]

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean (hunk 28 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating.lean]: Yes.

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean (hunk 29 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating.lean]: Yes.

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by grunweg** [comment]
This PR is great! Would you like to update `overview.yaml` accordingly (i.e., the line
```
A5 is simple: 'alternatingGroup.isSimpleGroup_five'
```
can include the general case)?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 36]
```diff
@@ -0,0 +1,195 @@
...
+    apply Subgroup.mem_iSup_of_mem ⟨(g : Perm α).support, hg.card_support⟩
+    rw [mem_range_ofSubtype_iff]
+
+/-- If `α` has at least 5 elements, but not 6,
+then the only nontrivial normal subgroup of `alternatingGroup α`
+is `⊤`. -/
+theorem normal_subgroup_eq_bot_or_eq_top_of_card_ne_six
+    (hα : 5 ≤ Nat.card α) (hα' : Nat.card α ≠ 6)
+    {N : Subgroup (alternatingGroup α)} (hnN : N.Normal) :
+    N = ⊥ ∨ N = ⊤ := by
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:126]: Why don'you replace `(hnN : N.Normal)` with the type class assumption `[N.Normal]`? I've checked and the whole file compiles, modulo the trivial modifications.

File: Mathlib/GroupTheory/Perm/ConjAct.lean [hunk 37]
```diff
@@ -44,6 +44,10 @@ theorem support_conj_eq_smul_support (k : ConjAct (Perm α)) (g : Equiv.Perm α)
   ext
   rw [mem_conj_support, ← Perm.smul_def, ConjAct.ofConjAct_inv, Finset.inv_smul_mem_iff]
 
+theorem support_toConjAct_eq_smul_support (k : Perm α) (g : Perm α) :
```
Comment (faenuccio) [inline Mathlib/GroupTheory/Perm/ConjAct.lean]:
```suggestion
theorem support_toConjAct_eq_smul_support (k g : Perm α) :
```

**Comment by faenuccio** [comment]
This is really exciting, thanks! I'm going through the code most to learn the details of your implementation and I've got a couple of minor comments.

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 38]
```diff
@@ -208,6 +208,22 @@ theorem mulActionHom_compl_bijective :
 
 end compl
 
+variable {G} in
+theorem fixedPoints_ne_univ_of_faithfulSMul
+    [Nontrivial G] [FaithfulSMul G α]
+    (n : ℕ) (hn : 0 < n) (hn' : n < Nat.card α) :
```
Comment (faenuccio) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean]: Do you really need `n` to be explicit?

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 39]
```diff
@@ -208,6 +208,22 @@ theorem mulActionHom_compl_bijective :
...
+    fixedPoints G (powersetCard α n) ≠ univ := by
+  have : Finite α := Nat.finite_of_card_ne_zero (Nat.ne_zero_of_lt hn')
```
Comment (faenuccio) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean]: You can remove this line by finishing your proof with
```
· simpa [ENat.card_eq_coe_natCard, Nat.cast_lt, Nat.finite_of_card_ne_zero (ne_zero_of_lt hn')]
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 40]
```diff
@@ -299,7 +315,7 @@ theorem isPreprimitive_alternatingGroup [Fintype α] {n : ℕ}
   apply alternatingGroup.isCoatom_stabilizer
   · rw [powersetCard.coe_nonempty_iff]
     exact le_trans (by norm_num) h_three_le
-  · simp only [Set.nonempty_compl, ne_eq, Set.eq_univ_iff_ncard, ncard_eq]
+  · simp only [nonempty_compl, ne_eq, eq_univ_iff_ncard, ncard_eq]
     exact ne_of_lt hn
```
Comment (faenuccio) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean]:
```suggestion
  · simpa [nonempty_compl, ne_eq, eq_univ_iff_ncard, ncard_eq] using ne_of_lt hn
```

Comment (grunweg) [reply Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean]: Can you do `hn.ne`, by the way?

File: docs/overview.yaml [hunk 41]
```diff
@@ -52,6 +52,7 @@ General algebra:
     Cayley's theorem: 'Equiv.Perm.subgroupOfMulAction'
     alternating group: 'alternatingGroup'
     A5 is simple: 'alternatingGroup.isSimpleGroup_five'
```
Comment (grunweg) [inline docs/overview.yaml]:
```suggestion
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 42]
```diff
@@ -0,0 +1,195 @@
...
+
+
+public import Mathlib.GroupTheory.GroupAction.Iwasawa
+public import Mathlib.GroupTheory.GroupAction.SubMulAction.Combination
+public import Mathlib.GroupTheory.SpecificGroups.Alternating.KleinFour
+
+/-! # The alternating group is simple
+
+* `Equiv.Perm.iwasawaStructure_two`:
+  the natural `IwasawaStructure` of `Equiv.Perm α` acting on `Set.powersetCard α 2`.
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: I'm not a great fun of the adjective "natural" but of course it's perfectly fine if you prefer to keep it. It also appears in the docs below for cardinalities 3, 4.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 43]
```diff
@@ -0,0 +1,195 @@
...
+-/
+module
+
+
+public import Mathlib.GroupTheory.GroupAction.Iwasawa
+public import Mathlib.GroupTheory.GroupAction.SubMulAction.Combination
+public import Mathlib.GroupTheory.SpecificGroups.Alternating.KleinFour
+
+/-! # The alternating group is simple
+
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:14]: Can you organise this section in Main Results & Main Definitions ?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 44]
```diff
@@ -0,0 +1,195 @@
...
+* `Equiv.Perm.iwasawaStructure_two`:
+  the natural `IwasawaStructure` of `Equiv.Perm α` acting on `Set.powersetCard α 2`.
+  Its commutative subgroups consist of the permutations with support in a given element
+  of `Set.powersetCard α 2`. They are cyclic of order 2.
+
+* `alternatingGroup_of_le_of_normal`:
+  If `α` has at least 5 elements, then a nontrivial normal subgroup
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:18]: elements or terms?

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 45]
```diff
@@ -0,0 +1,195 @@
...
+
+/-- The Iwasawa structure of `Perm α` acting on `Set.powersetCard α 2`. -/
+def iwasawaStructure_two [∀ s : Set α, DecidablePred fun x ↦ x ∈ s] :
+    IwasawaStructure (Perm α) (Set.powersetCard α 2) where
+  T s := (ofSubtype : Perm (s : Set α) →* Perm α).range
+  is_comm s := by
+    have : IsMulCommutative (Perm s) := isMulCommutative_iff_card_le_two.mpr (by simp)
+    infer_instance
+  is_conj g s := by
+    convert (conj_smul_range_ofSubtype g s).symm
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:81]: This seems a sign that some `defeq` problem is around identifying `MulAut.conj` and `toConjAct`: I am not requesting that we fix it now, but can you perhaps have a look at where these are defined and add a ToDo? I've tried turning `toConjAct` into an `abbrev` but with no effect.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 46]
```diff
@@ -0,0 +1,195 @@
...
+  is_generator := by
+    rw [eq_top_iff, ← Equiv.Perm.closure_isSwap, Subgroup.closure_le]
+    rintro g ⟨a, b, hab, rfl⟩
+    apply Subgroup.mem_iSup_of_mem ⟨{a, b}, Finset.card_pair hab⟩
+    exact ⟨swap ⟨a, by simp⟩ ⟨b, by simp⟩, Equiv.Perm.ofSubtype_swap_eq _ _⟩
+
+/-- If `α` has at least 5 elements, then the only nontrivial
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: terms? Also, the doc is not really what the theorem says.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 47]
```diff
@@ -0,0 +1,195 @@
...
+normal subgroup of `Equiv.Perm α` is `alternatingGroup α`. -/
+theorem alternatingGroup_of_le_of_normal
+    {α : Type*} [DecidableEq α] [Fintype α] (hα : 5 ≤ Nat.card α)
+    {N : Subgroup (Perm α)} (hnN : N.Normal) (ntN : Nontrivial N) :
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]:
```suggestion
    {N : Subgroup (Perm α)} [N.Normal] (ntN : Nontrivial N) :
```

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 48]
```diff
@@ -0,0 +1,195 @@
...
+  intro hN
+  have : IsPreprimitive (alternatingGroup α) (Set.powersetCard α 3) := by
+    refine Set.powersetCard.isPreprimitive_alternatingGroup (by norm_num) ?_ ?_
+    · exact lt_of_lt_of_le (by norm_num) hα
+    · simpa using hα'
+  rw [eq_top_iff, ← commutator_alternatingGroup_eq_top (by simpa using hα)]
+  apply iwasawaStructure_three.commutator_le
+  exact fixedPoints_ne_univ_of_faithfulSMul 3 (by norm_num) (by grind)
+
+theorem mem_map_kleinFour_ofSubtype (s : Finset α) (hs : s.card = 4) (k : alternatingGroup α) :
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Do you need `s` explicit here? It can be inferred by `hs`, I guess.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean [hunk 49]
```diff
@@ -0,0 +1,195 @@
...
+    k ∈ (kleinFour s).map (ofSubtype s) ↔
+      (k : Perm α).support ⊆ s ∧ ((k : Perm α) = 1 ∨ (k : Perm α).cycleType = {2, 2}) := by
+  have hs : Nat.card s = 4 := by simpa
+  by_cases hk : (k : Perm α).support ⊆ s
+  · obtain ⟨σ, rfl⟩ := (mem_range_ofSubtype_iff s k).mpr hk
+    simp_rw [and_iff_right hk, Subgroup.mem_map, ofSubtype_inj, existsAndEq, and_true,
+      ← SetLike.mem_coe, coe_kleinFour_of_card_eq_four hs]
+    simp only [Set.singleton_union, Set.mem_insert_iff, Set.mem_setOf_eq, OneMemClass.coe_eq_one,
+      cycleType_ofSubtype, coe_ofSubtype, map_eq_one_iff _ Perm.ofSubtype_injective]
+    convert Iff.rfl
```
Comment (faenuccio) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:148]: This is also strange and it has to do with some coercion from sets to subtypes that behaves differently than the coercion from Finsets to subtypes. Once more, don't fix now but please note it somewhere because it needs to be investigated.

**Review by faenuccio — COMMENTED** [review]
Thanks once more for bringing this beautiful piece of math to Mathlib. I left some comments, the most important ones concern two uses of `convert` and class type assumptions for normality.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 49 above)
Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:148]: Yeah, this has to do with different fintype instances, and I didn't see an obvious way to reconcile them. Part of the issue is that `cycleType` takes a `Fintype` instance. Would `Finite` be better (losing computability)?

Comment (faenuccio) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:148]: Well, losing computability in the theory of finite groups seems really a pity and, if the only advantage is to resolve this "convert", it is certainly not worth it. So I would not change it, but you agree that somewhere the problem must have been introduced...

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:148]: done.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 48 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: Yes, but in one application, that forced me to specifiy it explicitly.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 47 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: I did that. This worked fine.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 46 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: I feel elements is clearer than term.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 45 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:81]: There might also be a problem on the left hand side.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 44 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:18]: elements is clearer, I believe.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 43 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean:14]: OK.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean (hunk 42 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: I couldn't find a better adjective.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: I added documentation in the header.

Comment (faenuccio) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Simple.lean]: I would perhaps remove it altogether, but let's forget about it.

**Comment by faenuccio** [comment]
thanks!

bors d+
